US05237066
(S)-(-)-3-Aminoquinuclidine (1.9 g) is dissolved in 33.5 ml of 1N aqueous sodium hydroxide solution. 4-Acetamido-5-chloro-2-methoxybenzoyl chloride (3.75 g) dissolved in 70 ml of dioxane is added dropwise to this solution. After 15 minutes' stirring, the medium is acidified, washed with chloroform and alkalinized with concentrated aqueous sodium hydroxide solution, and the product extracted with chloroform. The organic phase is dried (over Na2SO4) and then evaporated. The oily residue is dissolved in ethanol and ethanolic hydrogen chloride is added until an acid pH is obtained. The N-(3-quinuclidinyl)-4-acetamido-5-chloro-2-methoxybenzamide hydrochloride thereby formed precipitates (quantitative yield), and the latter is collected by filtration.

reactant | (S)-(-)-3-Aminoquinuclidine | 1.9 g | N[C@@H]1CN2CCC1CC2 | C7H14N2
reactant | 4-Acetamido-5-chloro-2-methoxybenzoyl chloride | 3.75 g | C(C)(=O)NC1=CC(=C(C(=O)Cl)C=C1Cl)OC | C10H9Cl2NO3
solvent | sodium hydroxide | 1N, 33.5 ml | [OH-].[Na+]
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | N-(3-quinuclidinyl)-4-acetamido-5-chloro-2-methoxybenzamide hydrochloride | quantitative yield | Cl.N12CC(C(CC1)CC2)NC(C2=C(C=C(C(=C2)Cl)NC(C)=O)OC)=O | InChI=1S/C17H22ClN3O3.ClH/c1-10(22)19-14-8-16(24-2)12(7-13(14)18)17(23)20-15-9-21-5-3-11(15)4-6-21;/h7-8,11,15H,3-6,9H2,1-2H3,(H,19,22)(H,20,23);1H
